US05599812
Stage A: 4,5-dihydro-4-oxopyrrolo[1,2-a]quinoxaline
15 g (0.095 mol) of 2-(1-pyrrolyl)aniline is brought to reflux for 1 h 30 min, in 200 cm3 of toluene, in the presence of 50 cm3 of a 20% solution of phosgene in toluene. After cooling, the precipitate formed is filtered off, washed with ethyl ether, dried and recrystallized from acetonitrile (white powder sublimed at 270° C.).

reactant | 2-(1-pyrrolyl)aniline | 0.095 mol, 15 g | N1(C=CC=C1)C1=C(N)C=CC=C1 | C10H10N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 200 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro-4-oxopyrrolo[1,2-a]quinoxaline | O=C1C=2N(C3=CC=CC=C3N1)C=CC2 | C11H8N2O
